US06515149B2
To a mixture of 15.0 g of 3-(1,3-dioxan-2-yl)-1-(5-norbornen-2-yl)-1-propanol, 9.6 g of acetic anhydride, 100 mg of 4-dimethylaminopyridine and 50 ml of methylene chloride, 10.2 g of triethylamine was added dropwise over 30 minutes at 20° C. Stirring was continued for 30 minutes whereupon 10 g of water was added to stop reaction. Stirring was continued for a further 30 minutes whereupon water was added to the reaction solution, which was extracted with hexane. The organic layer was successively washed with water and saturated sodium chloride water, dried over anhydrous sodium sulfate, and concentrated in vacuum. It was further purified by vacuum distillation, obtaining 16.9 g of 3-(1,3-dioxan-2-yl)-1-(5-norbornen-2-yl)-1-propyl acetate (boiling point 125° C./53 Pa, yield 96%).

reactant | 3-(1,3-dioxan-2-yl)-1-(5-norbornen-2-yl)-1-propanol | 15.0 g | O1C(OCCC1)CCC(O)C1C2C=CC(C1)C2 | C14H22O3
reactant | acetic anhydride | 9.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 10.2 g | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | water | 10 g | O | H2O
product | 3-(1,3-dioxan-2-yl)-1-(5-norbornen-2-yl)-1-propyl acetate | 16.9 g, yield 96% | C(C)(=O)OC(CCC1OCCCO1)C1C2C=CC(C1)C2 | C16H24O4
